US07132426B2
A 5-liter, 3-neck flask was equipped with mechanical stirring, a reflux condenser, and a powder addition funnel. Sodium bicarbonate (840 g, 10 mmol) was added via the powder funnel while stirring, then water (ca. 300–400 mL) was gradually added while vigorously stirring to form a thick, uniform slurry. The flask was then placed in an ice bath, and a solution of 4-hydroxypiperidine (506 g, 5.00 mol) in CH2Cl2 (1.0 L) was added, and the contents were vigorously mixed while cooling. A solution of cyanogen bromide (640 g, 6.0 mol) in CH2Cl2 (600 mL) was added in a dropwise fashion over 2 h, and stirring was continued for an additional 30 min. The ice bath was removed, and the mechanical stirrer was replaced by a magnetic stirrer, and the reaction mixture was stirred for 16 h. The flask was once again placed under mechanical stirring, and sodium carbonate (100 g) was added in order to ensure complete neutralization. MgSO4 (500 g) was added, and vigorous stirring was continued for 15 min. The resulting suspension was filtered, rinsing with CH2Cl2 (2.0 L). A light amber, viscous oil was obtained upon solvent removal to give 1-cyano-4-hydroxypiperidine (574 g, 91% yield. 1H NMR (CDCl3) δ 3.80 (m, 1H), 3.39 (m, 2H), 3.05 (m, 2H), 1.87 (m, 2H), 1.70 (br s, 1H), 1.62 (m, 2H); MS m/z 212.1 (M+).

reactant | Sodium bicarbonate | 10 mmol, 840 g | C([O-])(O)=O.[Na+]
reactant | water | ca. 300–400 mL | O | H2O
reactant | 4-hydroxypiperidine | 5.00 mol, 506 g | OC1CCNCC1 | C5H11NO
reactant | cyanogen bromide | 6.0 mol, 640 g | N#CBr | CBrN
solvent | CH2Cl2 | 1.0 L | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
product | 1-cyano-4-hydroxypiperidine | 91% yield | C(#N)N1CCC(CC1)O | C6H10N2O
